US07750017B2
To a solution of 4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-ol (30 mg, 0.07 mmol) in EtOH (1.0 mL) was added (R)-(+)-glycidol (5 mg, 0.07 mL, 1.0 equiv) and triethylamine (0.34 mg, 0.0035 mmol, 0.05 equiv) under nitrogen. The reaction mixture was stirred at 80° C. for 15 h and then cooled to rt. The solvents were removed in vacuo. The residue was purified by preparative HPLC to afford (2R)-3-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-yl]oxy}propane-1,2-diol as a white solid (14.8 mg, 40%). 1H-NMR (CD3OD) δ 8.45 (s, 1H), 8.32 (d, J=8.9 Hz, 1H), 7.73 (d, J=2.7 Hz, 1H), 7.61 (d, J=2.2 Hz, 1H), 7.46 (dd, J=2.7, 9.0 Hz, 1H), 7.40 (m, 1H), 7.30 (d, J=7.8 Hz, 1H), 7.25 (dd, J=2.3, 9.0 Hz, 2H), 7.16 (d, J=9 Hz, 1H), 7.05 (td, 1H), 5.22 (s, 2H), 4.20 (m, 1H), 4.11 (m, 1H), 4.04 (m, 1H), 3.72 (m, 2H), LCMS RT=3.32 min, [M+H]+=526.1.

reactant | 4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-ol | 0.07 mmol, 30 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)O | C23H15ClFN3O2S
reactant | (R)-(+)-glycidol | 0.07 mL, 5 mg, 1.0 equiv | C1[C@H](O1)CO | C3H6O2
reactant | triethylamine | 0.0035 mmol, 0.34 mg, 0.05 equiv | C(C)N(CC)CC | C6H15N
solvent | EtOH | 1.0 mL | CCO | C2H6O
product | (2R)-3-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-yl]oxy}propane-1,2-diol | 14.8 mg, 40% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)OC[C@@H](CO)O | C26H21ClFN3O4S
